US07598249B2
4-(5-Bromo-2-hydroxy-3-methoxy-benzyl)-piperazine-1-carboxylic acid phenylamide hydrochloride
To a solution of 4-(5-bromo-2-hydroxy-3-methoxy-benzyl)-piperazine-1-carboxylic acid phenylamide (1.2 g) in Et2O (16 mL) was added HCl (2 M in Et2O, 3.5 mL). After 1 h, the mixture was concentrated to give the title compound as a white solid. 1H NMR (400 MHz, CD3OD): 7.40-7.20 (m, 6H), 7.10-7.05 (m, 1H), 4.37 (s, 2H), 3.94 (s, 3H).

reactant | 4-(5-bromo-2-hydroxy-3-methoxy-benzyl)-piperazine-1-carboxylic acid phenylamide | 1.2 g | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=C(C(=CC(=C1)Br)OC)O | C19H22BrN3O3
reactant | HCl | 2 M, 3.5 mL | Cl | ClH
solvent | Et2O | 16 mL | CCOCC | C4H10O
product | 4-(5-Bromo-2-hydroxy-3-methoxy-benzyl)-piperazine-1-carboxylic acid phenylamide hydrochloride | Cl.C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=C(C(=CC(=C1)Br)OC)O | InChI=1S/C19H22BrN3O3.ClH/c1-26-17-12-15(20)11-14(18(17)24)13-22-7-9-23(10-8-22)19(25)21-16-5-3-2-4-6-16;/h2-6,11-12,24H,7-10,13H2,1H3,(H,21,25);1H
